US06392104B1
In an atmosphere of nitrogen, 10 mmole of 1,3,5-adamantanetriol obtained by the method of Example 32 and 36 mmole of pyridine were dissolved in 10 mL of DMF. To the mixture, 33 mmole of methoxycarbonyl chloride was added dropwise with stirring at room temperature. Cooling of the resultant mixture with ice was started at about the time exothermic reaction began. When the exothermic reaction is completed, the mixture was heated to 60° C. and then stirred for one hour. As a result, the conversion of 1,3,5-adamantanetriol was 99% and 1,3,5-tris(methoxycarbonyloxy)adamantane (yield 95%) was formed.

reactant | methoxycarbonyl chloride | 33 mmole | COC(=O)Cl | C2H3ClO2
reactant | 1,3,5-adamantanetriol | C12(CC3(CC(CC(C1)C3)(C2)O)O)O | C10H16O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,3,5-tris(methoxycarbonyloxy)adamantane | yield 95% | COC(=O)OC12CC3(CC(CC(C1)C3)(C2)OC(=O)OC)OC(=O)OC | C16H22O9
